US04031226
A mixture of 7.7 parts of 1-(2-thienylcarbonyl)aziridine, 11.5 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 8 parts of methanol and 54 parts of benzene is stirred and refluxed for 1.50 hours. The reaction mixture is cooled and dissolved in trichloromethane. The solution is washed twice with water, dried, filtered and evaporated. The residue is crystallized from methanol. The product is filtered off and dried, yielding 2 parts of N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]-2-thiophenecarboxamide; mp. 194° C.

reactant | 1-(2-thienylcarbonyl)aziridine | S1C(=CC=C1)C(=O)N1CC1 | C7H7NOS
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | methanol | CO | CH4O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]-2-thiophenecarboxamide | O=C1NCN(C12CCN(CC2)CCNC(=O)C=2SC=CC2)C2=CC=CC=C2 | C20H24N4O2S
